US06211227B1
In methanol (10 ml) was dissolved methyl 2-(3-methoxyphenylthiomethyl)-6-nitrobenzoate obtained in Reference Example 16 (0.96 g, 2.88 mmol), and a 4 mol/l aqueous solution of sodium hydroxide (10 ml) was added thereto, followed by heating under reflux for 2 hours. After the reaction, the reaction mixture was concentrated and adjusted to pH 3 with a 1 mol/l aqueous solution of hydrochloric acid to give 2-(3-methoxyphenylthiomethyl)-6-nitrobenzoic acid as a precipitated white solid (0.85 g, 92%).

reactant | sodium hydroxide | 10 ml | [OH-].[Na+]
reactant | methyl 2-(3-methoxyphenylthiomethyl)-6-nitrobenzoate | COC=1C=C(C=CC1)SCC1=C(C(=O)OC)C(=CC=C1)[N+](=O)[O-] | C16H15NO5S
solvent | methanol | 10 ml | CO | CH4O
product | 2-(3-methoxyphenylthiomethyl)-6-nitrobenzoic acid | 0.85 g, 92% | COC=1C=C(C=CC1)SCC1=C(C(=O)O)C(=CC=C1)[N+](=O)[O-] | C15H13NO5S
